US08193349B2
To a solution of 5-hydroxy-4,4-dimethyl-pentanoic acid (300 mg, 2.05 mmol) in DMF (5 ml), K2CO3 (369 mg, 2.87 mmol) and iodomethane (154 ul, 2.47 mmol) are added at room temperature. The mixture is stirred at room temperature for 15 hours. To the mixture, H2O is added and the solution is extracted with AcOEt. The organic layer is washed with H2O, and brine, and dried over MgSO4, and concentrated under reduced pressure. The residue is purified by silica gel column chromatography to give 5,5-dimethyl-tetrahydro-pyran-2-one (150 mg, 47%); TLC (hexane/AcOEt, 2:1) Rf 0.40, 1H NMR (400 MHz, chloroform-d) δ ppm 1.06 (s, 6H), 1.70 (t, 2H), 2.56 (t, 2H), 3.97 (s, 2H).

reactant | 5-hydroxy-4,4-dimethyl-pentanoic acid | 2.05 mmol, 300 mg | OCC(CCC(=O)O)(C)C | C7H14O3
reactant | K2CO3 | 2.87 mmol, 369 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 2.47 mmol, 154 ul | IC | CH3I
reactant | H2O | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5,5-dimethyl-tetrahydro-pyran-2-one | 150 mg, 47% | CC1(CCC(OC1)=O)C | C7H12O2
